US05747498
(3-Ethynylphenyl)-(6-nitroquinazolin-4-yl)-amine Hydrochloride
4-Chloro-6-nitroquinazoline (1.06 g,5.00 mmol) and 3-ethynylaniline (1.00 g,5.30 mmol) were refluxed in 10 mL of isopropyl alcohol for 3 hours, cooled and, after 16 hours at room temperature, filtered to afford solid title product which was washed with 10 mL of isopropyl alcohol and dried in vacuo, at 70° C., 1.27 g (78%); mp 255°-256° C.

reactant | 4-Chloro-6-nitroquinazoline | 5.00 mmol, 1.06 g | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 3-ethynylaniline | 5.30 mmol, 1.00 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | (3-Ethynylphenyl)-(6-nitroquinazolin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C16H10N4O2.ClH/c1-2-11-4-3-5-12(8-11)19-16-14-9-13(20(21)22)6-7-15(14)17-10-18-16;/h1,3-10H,(H,17,18,19);1H
